US04052404
1-Ethyl-1-(3-aminopropyl)-1,2,3,4,6,7,12,12b-octahydroindolo (2,3-a)quinolizine
2.0 g. (6.20 mmoles) of (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[ 2,3-a] quinolizin-1-yl)-propionitrile are dissolved in 100 ml. of methanol, and 2 g. of Raney-nickel, thoroughly pre-washed with water and methanol, are added. The reaction mixture is warmed to 48° to 50° C under stirring, and a suspension of 2.0 g. (53 mmoles) of sodium borohydride in 8 ml. of 8 n sodium hydroxide is added. At the beginning of the reaction a vigorous bubbling can be observed. The reaction mixture is stirred for 30 minutes, thereafter it is refluxed for 3 hours. The mixture is cooled to about 50° C, and 2 g. of Raney-nickel, pre-treated as described above, and a suspension of 2.0 g. (53 mmoles) of sodium borohydride in 8 ml. of 8 n sodium hydroxide are added. When the bubbling ceases the reaction mixture is heated to boiling and refluxed for 3 hours. Thereafter the reaction mixture is cooled, the catalyst is filtered off, and washed with methanol. The filtrate is evaporated in vacuo. The oily residue is dissolved in a minimum amount of methanol, and the solution is acidified slightly by adding methanol saturated with anhydrous hydrochloric acid. The methanol solution is diluted with ether, and the precipitated hydrochloride is filtered off. The obtained salt, weighing 2.20 g., is recrystallized from a mixture of methanol and ether to obtain 1.85 g. (77.8 %) of 1-ethyl-1-(3-aminopropyl)-1,2,3,4,6,7,12,12b-octahydro-indolo(2,3-a)quinolizine dihydrochloride; m.p.: 248-251° C.

reactant | (1-ethyl-1,2,3,4,6,7-hexahydro-indolo[ 2,3-a] quinolizin-1-yl)-propionitrile | 6.20 mmoles | C(C)C1(CCCN2CCC=3C(=C12)N=C1C=CC=CC13)C(C#N)C | C20H23N3
reactant | sodium borohydride | 53 mmoles | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium borohydride | 53 mmoles | [BH4-].[Na+]
reactant | 1-ethyl-1-(3-aminopropyl)-1,2,3,4,6,7,12,12b-octahydro-indolo(2,3-a)quinolizine dihydrochloride | Cl.Cl.C(C)C1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CCCN
solvent | methanol | CO | CH4O
product | 1-Ethyl-1-(3-aminopropyl)-1,2,3,4,6,7,12,12b-octahydroindolo (2,3-a)quinolizine | C(C)C1(CCCN2CCC3=C(C12)NC1=CC=CC=C13)CCCN | C20H29N3
